US05470849
A solution of 2,2-dimethyl-1,3-dioxane-4,6-dione (25 g, 174 mmol) and benzyl alcohol (36 mL, 347 mmol) in toluene (100 mL) was heated at 106° C. for 24 h. The solution was poured into 5% Na2CO3 (aqueous), the organic layer was separated, and the aqueous layer was washed with ether (3×). The aqueous layer was then acidified with 1N HCl and extracted with ethyl acetate (2×). The combined ethyl acetate extracts were dried over anhydrous MgSO4, filtered and evaporated at reduced pressure to give malonic acid monobenzyl ester (11.42 g, 34%).

reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 174 mmol, 25 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | benzyl alcohol | 347 mmol, 36 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | malonic acid monobenzyl ester | 11.42 g, 34% | C(C1=CC=CC=C1)OC(CC(=O)O)=O | C10H10O4
